US06784137B2
Methyl 4-amino-3-chloro-6-(6-t-butoxy-3-pyridinyl)pyridine-2-carboxylate (0.50 g, 1.49 mmol) was dissolved in a 1:1 mixture of THF and trifluoroacetic acid (5 mL) and heated to reflux for 30 minutes. The volatiles were removed in vacuo and the crude material was purified by HPLC (linear gradient, 100% water to 100% acetonitrile) to give of methyl 4-amino-3-chloro-6-(6-hydroxy-3-pyridinyl)pyridine-2-carboxylate (0.35 g, 1.25 mmol): Mp 251-52° C.

reactant | Methyl 4-amino-3-chloro-6-(6-t-butoxy-3-pyridinyl)pyridine-2-carboxylate | 1.49 mmol, 0.50 g | NC1=C(C(=NC(=C1)C=1C=NC(=CC1)OC(C)(C)C)C(=O)OC)Cl | C16H18ClN3O3
solvent | THF | C1CCOC1 | C4H8O
solvent | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | methyl 4-amino-3-chloro-6-(6-hydroxy-3-pyridinyl)pyridine-2-carboxylate | 1.25 mmol, 0.35 g | NC1=C(C(=NC(=C1)C=1C=NC(=CC1)O)C(=O)OC)Cl | C12H10ClN3O3
